US05272271
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(2-oxo-3,3-dimethyl-1-piperidinyl)-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole
To 289 mg of (+)-7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole dissolved in 5 mL of ethyl acetate were added 149 mg of triethylamine. The mixture was dropwise added with 308 mg of 5-bromo-2,2-dimethylvaleryl chloride, followed by stirring at the room temperature for one and half hours. The mixture was added with 10 mL of saturated aqueous NaCl solution and twice extracted with ethyl acetate (each 20 mL). After the extract was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was dissolved in 33 mL of dimethylformamide and was dropped with 1.24 g of 10% tetramethylammonium hydroxide solution under ice-cooling over 15-minute period. After the mixture was reacted under ice-cooling for one hour, the solvent was distilled off under reduced pressure and added with 10 mL of saturated aqueous NaCl solution and extracted twice with chloroform (each 20 mL). After the extract was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography (ethyl acetate:n-hexane=1:1, Rf=0.5) to obtain 174 mg of the intended compound as fine yellow crystals.

reactant | (+)-7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 289 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethylamine | 149 mg | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2,2-dimethylvaleryl chloride | 308 mg | BrCCCC(C(=O)Cl)(C)C | C7H12BrClO
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(2-oxo-3,3-dimethyl-1-piperidinyl)-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 174 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N1C(C(CCC1)(C)C)=O)O)C | C18H23N3O4
